US04347378
N,N-bis(Trimethylacetyloxyethyl)trimethylacetyloxyacetamide
This compound was prepared from 73 g (0.6 mole) of trimethylacetyl chloride and 32.6 g (0.2 mole) of N,N-bis(hydroxyethyl)hydroxyacetamide by the procedure of Example 1. Its structure was established by infrared and nuclear magnetic resonance spectroscopy. It was a white solid with m.p. 51.4° C.

reactant | trimethylacetyl chloride | 0.6 mole, 73 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | N,N-bis(hydroxyethyl)hydroxyacetamide | 0.2 mole, 32.6 g | OCCN(C(CO)=O)CCO | C6H13NO4
product | N,N-bis(Trimethylacetyloxyethyl)trimethylacetyloxyacetamide | CC(C(=O)OCCN(C(COC(C(C)(C)C)=O)=O)CCOC(C(C)(C)C)=O)(C)C | C21H37NO7
